US08071592B2
1-[2-(3-{[(2,3-Dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]methyl}-4-hydroxy-1-piperidinyl)ethyl]-7-fluoro-2(1H)-quinoxalinone (0.54 g, 1.15 mmol) was stirred with di-tert-butyl dicarbonate (0.27 g, 1.2 mmol) in dichloromethane (20 mL) at room temperature overnight. The mixture was washed with aqueous sodium bicarbonate, solvent was removed and the residue was chromatographed on silica, eluting with 0-10% methanol/dichloromethane, to give two isomers of 1,1-dimethylethyl (2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)({1-[2-(7-fluoro-2-oxo-1(2H)-quinoxalinyl)ethyl]-4-hydroxy-3-piperidinyl}methyl)carbamate (total 0.527 g, 80%). This material was stirred with Dess-Martin periodinane (1,1,1-tris(acetyloxy)-1,1-dihydro-1,2-benziodoxol-3-(1H)-one, 0.59 g, 1.39 mmol) in dichloromethane (25 mL) at room temperature for 2.25 h. The mixture was treated with aqueous sodium sulphite and sodium bicarbonate (15 mL each) for 0.5 h. Separation of the phases, extraction of the aqueous phase with dichloromethane, and evaporation of the organic fractions gave a residue which was chromatographed on silica, eluting with 0-10% methanol/dichloromethane, then again eluting with 0-10%/meoh/ethyl acetate, to give the product 90.23 g, 44%).

reactant | 1-[2-(3-{[(2,3-Dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]methyl}-4-hydroxy-1-piperidinyl)ethyl]-7-fluoro-2(1H)-quinoxalinone | 1.15 mmol, 0.54 g | O1CCOC=2C=NC(=CC21)CNCC2CN(CCC2O)CCN2C(C=NC1=CC=C(C=C21)F)=O | C24H28FN5O4
reactant | di-tert-butyl dicarbonate | 1.2 mmol, 0.27 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1,1-dimethylethyl (2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)({1-[2-(7-fluoro-2-oxo-1(2H)-quinoxalinyl)ethyl]-4-hydroxy-3-piperidinyl}methyl)carbamate | 0.527 g, 80% | O1CCOC=2C=NC(=CC21)CN(C(OC(C)(C)C)=O)CC2CN(CCC2O)CCN2C(C=NC1=CC=C(C=C21)F)=O | C29H36FN5O6
